US06127354
(2R)-2-(N-tert-Butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid (1.40 g, 4.3 mmol) was dissolved in N,N-dimethylformamide (5 ml) and dichloromethane (5 mL). Hydroxy-7-azabenzotriazole (0.59 g, 4.3 mmol) was added as a solid. The solution was cooled to 0 ° C. N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.99 g, 5.2 mmol) was added. The solution was stirred for 20 min at 0° C. N-Methyl-N-phenethylamine (0.86 ml, 6.0 mmol) was added. The solution was stirred for 16 h, while it was warming up to room temperature. It was diluted with water (300 ml) and ethyl acetate (150 ml). 10% sodium hydrogen sulfate solution (80 ml) was added. The phases were seperated. The aqueous phase was extracted with ethyl acetate (4×50 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (200 ml) and dried over magensium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using ethyl acetate/heptane 1:1 as eluent to give 1.89 g of N-methyl-N-((1R)-1-(N-methyl-N-phenethylcarbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butylester.

reactant | (2R)-2-(N-tert-Butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid | 4.3 mmol, 1.40 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | Hydroxy-7-azabenzotriazole | 4.3 mmol, 0.59 g | OC1=CC=NC=2NN=NC21 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 5.2 mmol, 0.99 g | Cl.CN(CCCN=C=NCC)C
reactant | N-Methyl-N-phenethylamine | 6.0 mmol, 0.86 ml | CNCCC1=CC=CC=C1 | C9H13N
reactant | sodium hydrogen sulfate | 80 ml | S(=O)(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-((1R)-1-(N-methyl-N-phenethylcarbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butylester | 1.89 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N(CCC1=CC=CC=C1)C)=O)C)=O | C28H34N2O3
